US09193693B2
Step 1. 2-(2-Bromophenyl)ethanamine
Into a 500-mL 3-necked round-bottom flask, was placed 2-(2-bromophenyl)acetonitrile (9.8 g, 49.99 mmol, 1.00 equiv), tetrahydrofuran (50 mL). This was followed by the addition of BH3 solution (250 mL, 1N in tetrahydrofuran) dropwise with stiffing at 0° C. The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of 50 mL of water. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 50 mL of H2O. The pH value of the aqueous solution was adjusted to 2 with aq. hydrogen chloride (5 N). The aqueous solution was washed with 3×20 mL of EA and adjusted to pH to 11 with sodium hydroxide. The resulting aqueous solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined and concentrated under vacuum. This resulted in 5 g (50%) of 2-(2-bromophenyl)ethanamine as brown oil.

reactant | 2-(2-bromophenyl)acetonitrile | 49.99 mmol, 9.8 g, 1.00 equiv | BrC1=C(C=CC=C1)CC#N | C8H6BrN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-(2-Bromophenyl)ethanamine | BrC1=C(C=CC=C1)CCN | C8H10BrN
